US07396847B2
[3-(5-Bromo-pyridin-2-yl)-4,5-dihydro-isoxazol-5-yl]-methanol
5-Bromo-pyridine-2-carbaldehyde oxime (60 g, 298.5 mmol) and allyl alcohol (49.7 ml) were added to tetrahydrofuran (200 ml) and then bleach (2016 ml) was added. The reaction was stirred for four hours followed by extraction with tetrahydrofuran (2×200 ml). The organic layers were combined, dried over sodium sulfate, and concentrated in vacuo to give the desired product (38.8 g).

reactant | 5-Bromo-pyridine-2-carbaldehyde oxime | 298.5 mmol, 60 g | BrC=1C=CC(=NC1)C=NO | C6H5BrN2O
reactant | allyl alcohol | 49.7 ml | C(C=C)O | C3H6O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | [3-(5-Bromo-pyridin-2-yl)-4,5-dihydro-isoxazol-5-yl]-methanol | 38.8 g | BrC=1C=CC(=NC1)C1=NOC(C1)CO | C9H9BrN2O2
